US08097613B2
c) (1R,2S,7R,8S)-5-(7-Aminomethyl-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one hydrochloride
(1R,2S,7R,8S)-3-[3-(4-Fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazine-7-carbonitrile (0.38 g, 0.77 mmol) was dissolved in methanol (required gentle heating via heat gun). Concentrated aqueous hydrochloric acid solution (5 mL) was added followed by 10% palladium on carbon (−150 mg). The mixture was degassed and backfilled with hydrogen gas via balloon. The mixture stirred at 25° C. for 3 h. The mixture was passed through a plug of Celite, eluting with additional methanol (200 mL). The filtrate was concentrated in vacuo to afford the desired product, (1R,2S,7R,8S)-5-(7-aminomethyl-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one hydrochloride (˜0.77 mmol), as a pale yellow solid. The solid was used directly in the next step without further purification or characterization. LC-MS (ESI) calculated for C25H25FN4O4S 496.16. found 497.3 [M+H+].

reactant | (1R,2S,7R,8S)-3-[3-(4-Fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazine-7-carbonitrile | 0.77 mmol, 0.38 g | FC1=CC=C(CN2[C@H]3[C@@H]4CC[C@H]([C@H]3C(=C(C2=O)C2=NS(C3=C(N2)C=CC(=C3)C#N)(=O)=O)O)C4)C=C1 | C25H21FN4O4S
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | −150 mg | [Pd] | Pd
product | (1R,2S,7R,8S)-5-(7-aminomethyl-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one hydrochloride | ˜0.77 mmol | Cl.NCC1=CC2=C(NC(=NS2(=O)=O)C=2C(N([C@H]3[C@@H]4CC[C@H]([C@H]3C2O)C4)CC4=CC=C(C=C4)F)=O)C=C1 | InChI=1S/C25H25FN4O4S.ClH/c26-17-6-1-13(2-7-17)12-30-22-16-5-4-15(10-16)20(22)23(31)21(25(30)32)24-28-18-8-3-14(11-27)9-19(18)35(33,34)29-24;/h1-3,6-9,15-16,20,22,31H,4-5,10-12,27H2,(H,28,29);1H/t15-,16+,20+,22-;/m0./s1
